US07790770B2
(R)—N—((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide (234 mg, 0.442 mmol) was stirred in 4N HCl in dioxane (1.5 mL) and MeOH (1.5 mL) at room temperature under Ar for 10 min. The reaction mixture was concentrated, and then purified by flash chromatography (silica gel, hexanes/EtOAc) to give (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine (169 mg, 90%). LC-MS (ESI) 409.16 (M−NH3+H), retention time=3.26 minutes (0-100% MeOH in H2O with 0.1% TFA in 4-min run); Analytical HPLC: 2.52 minutes (0-100% CH3CN in H2O with 0.1% TFA in 4-min run); 1H NMR (400 MHz, CD3OD) δ ppm 7.29-7.50 (m, 2H), 6.87-7.22 (m, 8H), 6.77 (d, J=6.15 Hz, 2H), 6.04-6.48 (m, 1H), 3.57 (s, 2H).

reactant | (R)—N—((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | 0.442 mmol, 234 mg | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)N[S@](=O)C(C)(C)C | C26H25F6NO2S
reactant | MeOH | 1.5 mL | CO | CH4O
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine | 169 mg, 90% | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@](CC1=CC=CC=C1)(N)C1=CC=C(C=C1)F | C22H17F6NO
